US05250554
Ethyl 2-chloromethyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylat
To an ice-cooled solution of ethyl 3-amino-2-[(2'-cyanobiphenyl-4-yl)methyl]aminobenzoate (1.0 g) and triethylamine (0.3 g) in methylenechloride (10 ml) was added chloroacetyl chloride (0.24 ml) in portions. The mixture was allowed to stir for 13 hours and then evaporated to dryness to give a residue. The residue was washed with H2O, dried and dissolved in EtOH (10 ml). To the solution was added conc-HCl (1 ml) and the solution was refluxed for 6 hours. The reaction solution was evaporated to dryness to give a residue and the residue was dissolved in methylene chloride and water. The solution was made basic with 1N-NaOH and the organic layer was washed with water, dried and evaporated to dryness to give crystals Recrystallization from ethyl acetate-isopropylether gave colorless crystals (0.88 g, 76%) 1H-NMR(200 MHz, CDCl3) δ: 1.21(3H,t), 4.21(2H,q), 4.83(2H,s), 6.02(2H,s), 7.02(2H,d), 7.29- 7.49(5H,m), 7.58-7.79(3H,m), 8.00 (1H,dd).

reactant | ethyl 3-amino-2-[(2'-cyanobiphenyl-4-yl)methyl]aminobenzoate | 1.0 g | NC=1C(=C(C(=O)OCC)C=CC1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C23H21N3O2
reactant | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.24 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | NaOH | [OH-].[Na+]
solvent | methylenechloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Ethyl 2-chloromethyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylat | 0.88 g, 76% | ClCC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)C(=O)OCC | C25H20ClN3O2
